### PR TITLE
Chi gadget using mapM loop

### PR DESCRIPTION
**Pull request by mitschabaude**
* add a `chi` gadget, defined using a loop over `i = 0,...,24`
  * the loop is implemented using `mapM`
* we add a few theorems about `mapM` circuits, including a characterization of constraints
  * there's an even simpler characterization for the special case used here, when the loop is just mapping from a range with `Vector.mapFinRangeM`
* prove soundness of chi using the new theory
* a few refactors in the NOT gadget to make some of its sublemmas usable; also, prove the equivalence of NOT defined using XOR, with NOT defined using subtraction
* there is one lemma proof missing
* treatment of completeness has to wait for another PR, since a theory about `mapM` + `LawfulCircuit` + `uses_level_witnesses` is missing
  * probably, we can get this by defining a generalization `Operations.foldProp` of `constraints_hold` that @gio54321 suggested, and port the current proofs for `constraints_hold.generic`

### CODE REVIEW

File: Clean/Utils/Vector.lean [hunk 1]
```diff
@@ -75,44 +85,63 @@ def induct_push {motive : {n: ℕ} → Vector α n → Prop}
...
-  match n with
-  | 0 => #v[]
-  | k + 1 =>
-    (init (fun i : Fin k => create i)).push (create k)
+def finRange (n : ℕ) : Vector (Fin n) n :=
+  ⟨ .mk (List.finRange n), List.length_finRange n ⟩
 
-theorem cast_init {n} {create: Fin n → α} (h : n = m) :
-    init create = (init (n:=m) (fun i => create (i.cast h.symm))).cast h.symm := by
+def mapFinRange {n} (create: Fin n → α) : Vector α n := finRange n |>.map create
```
Comment (mitschabaude) [inline Clean/Utils/Vector.lean:143]: as few refactors here. `natInit` is now called `mapRange`, and `init` is called `mapFinRange`. also, we no longer use a custom implementation for `mapFinRange` (the old definition was really cumbersome to work with due to adding a fin-cast in every iteration)

File: Clean/Gadgets/Keccak/Chi.lean [hunk 2]
```diff
@@ -0,0 +1,110 @@
...
+variable {p : ℕ} [Fact p.Prime] [Fact (p > 512)]
+open Gadgets.Keccak256 (KeccakState)
+open Bitwise (not64)
+open Not (not64_bytewise not64_bytewise_value)
+
+def main (state : Var KeccakState (F p)) : Circuit (F p) (Var KeccakState (F p)) :=
+  Vector.mapFinRangeM 25 fun i => do
+    let state_not ← subcircuit Not.circuit (state.get (i + 5))
+    let state_and ← subcircuit And.And64.circuit ⟨state_not, state.get (i + 10)⟩
+    subcircuit Xor.circuit ⟨state.get i, state_and⟩
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Chi.lean:19]: this gadget, and its fairly easy soundness proof, is the main achievement of this PR

File: Clean/Gadgets/Keccak/Chi.lean [hunk 3]
```diff
@@ -0,0 +1,110 @@
...
+  rw [Circuit.constraints_hold.mapFinRangeM_completeness (lawfulFin := by infer_constant_lawful_circuits)]
+  simp only [circuit_norm, lawful_norm, subcircuit_norm, Xor.circuit, And.And64.circuit, Not.circuit,
+    Xor.assumptions, Xor.spec, And.And64.assumptions, And.And64.spec, Nat.reduceAdd]
+  intro i
+
+  simp only [assumptions, KeccakState.is_normalized, Fin.getElem_fin] at state_norm
+
+  -- TODO need theorem about `env.uses_local_witnesses_completeness (Vector.mapM ...)`
+  dsimp only [circuit_norm, main, Vector.mapFinRangeM, Xor.circuit, And.And64.circuit, Not.circuit] at h_env
+  sorry
```
Comment (mitschabaude) [inline Clean/Gadgets/Keccak/Chi.lean:103]: completeness proof has to wait for a different PR

File: Clean/Circuit/Loops.lean [hunk 4]
```diff
@@ -31,10 +54,50 @@ theorem Circuit.forM_local_length {circuit : α → Circuit F Unit} [lawful : Co
...
+      simp only [Vector.size_toArray] at ops ⊢
+      rw [mul_add, ←add_assoc, mul_one]
+      exact ops ++ lawful.operations x (n + k * n')
+
+  output_independent ops := by
+    sorry
+  offset_independent ops := by
+    sorry
+  append_only ops := by
+    sorry
```
Comment (mitschabaude) [inline Clean/Circuit/Loops.lean]: note, I left a few missing proofs here. they should be straightforward, using vector induction on `xs` if necessary. will get to it next next week

Comment (gio54321) [reply Clean/Circuit/Loops.lean]: I can add the missing proofs to this PR before merging

File: Clean/Gadgets/Keccak/Chi.lean [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+    subcircuit Xor.circuit ⟨state.get i, state_and⟩
+
+def assumptions := KeccakState.is_normalized (p:=p)
+
+def spec (state : KeccakState (F p)) (out_state : KeccakState (F p)) :=
+  out_state.is_normalized
+  ∧ out_state.value = Specs.Keccak256.chi state.value
+
+instance lawful (state : Var KeccakState (F p)) : ConstantLawfulCircuit (main state) :=
+  .from_mapM_vector _ (by infer_constant_lawful_circuits)
```
Comment (gio54321) [inline Clean/Gadgets/Keccak/Chi.lean:28]: We should probably extend `infer_constant_lawful_circuits` to support `mapM` and `forM`

File: Clean/Circuit/Loops.lean [hunk 6]
```diff
@@ -114,4 +177,165 @@ theorem forM_vector_soundness' {xs : Vector α n} :
...
+  simp only [soundness_iff_generic, mapFinRangeM_generic]
+
+theorem mapFinRangeM_completeness {n : ℕ} :
+  completeness env (Vector.mapFinRangeM m circuitFin |>.operations n) ↔
+    ∀ i : Fin m, completeness env (circuitFin i |>.operations (n + i*lawfulFin.local_length)) := by
+  simp only [completeness_iff_generic, mapFinRangeM_generic]
+end
+end constraints_hold
+
+/-- TODO remove when proof above is done -/
```
Comment (gio54321) [inline Clean/Circuit/Loops.lean]: What is this TODO referring to?

**Review by gio54321 — APPROVED** [review]
lgtm, left a few comments

File: Clean/Circuit/Loops.lean (hunk 4 above)
Comment (mitschabaude) [reply Clean/Circuit/Loops.lean]: ok great!

File: Clean/Gadgets/Keccak/Chi.lean (hunk 5 above)
Comment (mitschabaude) [reply Clean/Gadgets/Keccak/Chi.lean:28]: yes!

File: Clean/Circuit/Loops.lean (hunk 6 above)
Comment (mitschabaude) [reply Clean/Circuit/Loops.lean]: this is pretty much exactly the proof needed for the `offset_independent` property here: https://github.com/Verified-zkEVM/clean/pull/78/files#r2054700550

so the TODO was reminding myself that this here belongs up there
